US05104884
2-(1H-1,2,4-triazole-1-yl)-4-methyl-quinoline hydrochloride
A mixture of 1.78 g of 2-chloro-4-methyl-quinoline, 0.76 g of 1,2,4-triazole and 10 ml of chloro benzene is stirred at 100° C. for 7 hours. The reaction mixture is cooled, the precipitated product is filtered, dissolved in 5 ml of ethanol and precipitated by adding 10 ml of ethyl ether. The precipitated product is filtered. Thus 1.72 g of the desired compound are obtained, yield 70%. Mp.: 193°-194° C.

reactant | 2-chloro-4-methyl-quinoline | 1.78 g | ClC1=NC2=CC=CC=C2C(=C1)C | C10H8ClN
reactant | 1,2,4-triazole | 0.76 g | N1N=CN=C1 | C2H3N3
solvent | chloro benzene | 10 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2-(1H-1,2,4-triazole-1-yl)-4-methyl-quinoline hydrochloride | 1.72 g, yield 70% | Cl.N1(N=CN=C1)C1=NC2=CC=CC=C2C(=C1)C | InChI=1S/C12H10N4.ClH/c1-9-6-12(16-8-13-7-14-16)15-11-5-3-2-4-10(9)11;/h2-8H,1H3;1H
